US05147445
Synthesis of 1-(Diethylcarbamoyl)-3-(2-Chloro-4-Trifluoromethyl-Phenylsulfinyl)-1,2,4-Triazole (compound No. 65)
1-(Diethylcarbamoyl)-3-(2-chloro-4-trifluoromethylphenylthio)-1,2,4-triazole (3.79 g) is dissolved in chloroform (100 ml). With the temperature held at 10° C. or below with ice water, m-chloro-perbenzoic acid (1.73 g) is added in small portions over a period of 10 minutes. Thereafter, reaction is performed at 10° C. for 2 h, then at room temperature for 10 h. The chloroform solution is washed twice with a 10% aqueous solution of potassium carbonate (100 ml), then washed with water, and dried with magnesium sulfate. When the solvent is distilled off, an oil remains. This is purified by silica gel chromatography (solvent 1:1 mixture of chloroform and n-hexane) to produce the titled compound, 1-(diethylcarbamoyl)-3-(2-chloro-4-trifluoromethylphenylsulfinyl)-1,2,4-triazole (2.7 g) as an oil; yield, 68.4%.

reactant | 1-(Diethylcarbamoyl)-3-(2-chloro-4-trifluoromethylphenylthio)-1,2,4-triazole | 3.79 g | C(C)N(C(=O)N1N=C(N=C1)SC1=C(C=C(C=C1)C(F)(F)F)Cl)CC | C14H14ClF3N4OS
reactant | m-chloro-perbenzoic acid | 1.73 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(diethylcarbamoyl)-3-(2-chloro-4-trifluoromethylphenylsulfinyl)-1,2,4-triazole | 2.7 g | C(C)N(C(=O)N1N=C(N=C1)S(=O)C1=C(C=C(C=C1)C(F)(F)F)Cl)CC | C14H14ClF3N4O2S
